US05262539
3.5 g of 1-nitronaphthalene and 3.3 g of N,N-tetramethylenethiocarbamoylsulphenamide, dissolved in 15 ml of dimethyl sulphoxide, are added dropwise to a vigorously stirred suspension of 6 g of potassium hydroxide in 50 ml of dimethyl sulphoxide, the temperature being kept at 20° to 25° C. When the addition has ended the mixture is stirred for a further 60 minutes, poured into 400 ml of a saturated aqueous ammonium chloride solution and extracted with methylene chloride. After drying and removing the solvent, 4-nitro-1-naphthylamine is obtained with a melting point of 190° to 192° C. The yield is 2.9 g (77%). 1Nitro-2-napthylamine is additionally obtained in a yield of about 2%.

reactant | 1-nitronaphthalene | 3.5 g | [N+](=O)([O-])C1=CC=CC2=CC=CC=C12 | C10H7NO2
reactant | potassium hydroxide | 6 g | [OH-].[K+]
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | dimethyl sulphoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-nitro-1-naphthylamine | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)N | C10H8N2O2
